Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
colchicine
 
Attending: ___.
 
Chief Complaint:
persistent sensory loss and weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is  a ___ gentleman with history of gout and
recent admission to the neurology service for hands/feet
paresthesias, thought secondary to colchicine toxicity, who 
re-presents as referral from his outpatient neurologist for 
continued numbness/paresthesias, as well as mild bilateral lower 
and upper extremity weakness, with concern for worsening GBS. 
His neurologic history is complex, and per Dr. ___ 
excellent consult note of ___:

"Mr. ___ was admitted to the neurology service ___
after presenting with progressive numbness/tingling that started
in his arms and then progressed to his legs, and which occurred
in the setting of acute gout flare and colchicine use. The gout
flare started ___, for which he took multiple large doses of
colchicine. Exam at that time was notable for intact strength
and reflexes but a mild decreased sensation to light touch and
temperature over bilateral hands and feet. His labs were notable
for a mild anemia, mild thrombocytopenia, elevated reticulocyte
count, elevated LDH, low haptoglobin, and markedly elevated AST
(863), ALT (649). At that time he had LP which was markedly
traumatic with greater than 35,000 RBCs. Symptoms were initially 
attributed to colchicine toxicity, and he was discontinued on 
this and discharged home. He has since followed up with his 
___ PCP, who sent an extensive lab workup, 
including CMV IgG, IgM, both of which resulted markedly elevated 
on ___

He re-presented on ___, due to new areas of numbness and 
tingling over left forearm, left lateral knee and lower leg, in 
addition to the unchanged constant tingling in his hands and 
feet. He also described difficulty with his gait, especially 
going up stairs, and with initiating to stand. His sensory 
examination progressed to involve left wrist and forearm, left 
knee and lower leg. Proprioception was midly impaired in the 
right > left fingers only. Motor strength was full at that 
evaluation, and gait was antalgic. He was suspected to have an 
GBS-like polyneuropathy from acute CMV infection, but given only 
mild involvement with no motor or respiratory involvement, he 
was discharged home with close follow up.

In the interim, he states that his symptoms have more or less 
been stable. He continues to experience the paresthesias 
primarily in his fingers and toes, with occasional areas over 
the left knee. He continues to have mild difficulties initiating 
to stand, particularly the first step in the morning or from a 
seated position, such as when he is on the ground playing with 
his child. He states this is partially because of his right foot 
gout pain. The weakness does fluctuate; for example he felt 
worse last ___, but then on ___ he felt improved. Today, 
he did feel his arms were weaker than his legs, which was new. 
He has been going to work as usual (he works as an ___) and 
is finding significant difficulty typing, writing, and holding 
objects, with typing out wrong keys frequently.

Today, he presented to an outpatient Neurology appointment and 
was seen at ___ with Dr. ___ at 3pm. He endorses 
that she was "very upset at my performance on the examination", 
stating that his proximal arms were very weak and seemed to 
collapse despite maximal effort on strength testing. Concerned 
for worsening GBS, he was instructed to present to the ED 
immediately for further workup. He and his wife are also 
concerned about testing for Powassan virus.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech. No bowel or bladder 
incontinence or retention.

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits.  No 
dysuria. Endorses right foot joint pain and cramping in his left 
calf only. Denies rash.

Of note, he did receive a cortisone injection in his right foot 
last week. He has discontinued the colchicine and is taking only 
indomethacin for the gout.

 
Past Medical History:
gout
 
Social History:
___
Family History:
grandfather with stroke, no family history of autoimmune disease 


 
Physical Exam:
Admission exam:
Vitals: temp 98.7 HR 76 BP 150/84 RR 19 spO2 100% RA 
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air. VC = 3.4L, NIF = 
-60
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect. Anxious affect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-   5-  ___  ___   5   4+  4+    5     5   3
R  4+   5-  ___  ___   5   4+  4+    5     5   3
Infraspinatus: 4+ bilaterally

-Sensory: Sensation to light touch, pinprick, cold sensation, 
and vibration intact in all four extremities, with exception of 
minimal pinprick loss in the toes, right more so than left. 
Subtle impairment of proprioception in great toes bilaterally.

-DTRs: 0 throughout. Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Antalgic gait. Difficulty walking in 
tandem, improves with bearing weight on examiner. Romberg 
positive, takes step forward.

DISCHARGE EXAMINATION:
Vitals: Tmax: 98.6 HR: ___ BP: ___
General: Well nourished man in no acute distress sitting up 
eating breakfast.
Motor: Strength is ___ in ADM bilaterally, full in deltoids, 
biceps, triceps, wrist extensors and finger extensors. Strength 
is 4 in ___ bilaterally; 5 in bilateral TA.
Gait: Gait is steady and narrow based. Romberg is positive.
 
Pertinent Results:
Admission Labs:
GLUCOSE-106* UREA N-10 CREAT-0.9 SODIUM-139 POTASSIUM-3.6 
CHLORIDE-102 TOTAL CO2-27 ANION GAP-14
ALT(SGPT)-335* AST(SGOT)-108* ALK PHOS-60 TOT BILI-0.6
ALBUMIN-4.3 CALCIUM-9.5 MAGNESIUM-1.9
LACTATE-0.8

WBC-6.9 RBC-4.55* HGB-13.1* HCT-39.1* MCV-86 MCH-28.8 MCHC-33.5 
RDW-13.0 RDWSD-39.8
NEUTS-35.3 ___ MONOS-11.0 EOS-2.6 BASOS-1.3* IM ___ 
AbsNeut-2.45 AbsLymp-3.43 AbsMono-0.76 AbsEos-0.18 AbsBaso-0.09*

Tox: opiates positive

UA: bland

Infectious workup:
CMV Viral Load: 0 IU/mL E   DETECTED <2.1*
CMV avidity: pending
TOXOPLASMA IgG ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgG ANTIBODY BY EIA.

EMG:
IMPRESSION: 
This electrophysiologic study shows evidence for an acute, mild, 
predominantly demyelinating generalized polyneuropathy, as can 
be seen in ___ Syndrome. 

 
Brief Hospital Course:
___ gentleman with history of gout and recent admission 
to the neurology service for diffuse distal extremity 
paresthesias, initially thought secondary to colchicine 
toxicity, who re-presents as referral from his outpatient 
neurologist for continued numbness/paresthesias, as well as mild 
bilateral lower and upper extremity weakness. EMG was consistent 
with GBS. He underwent a 5 day course of IVIg.  He had 
improvement in his symptoms with persistent mild distal 
weakness, a wide based gait and positive Romberg. He was 
discharged with a prescription for outpatient physical therapy.

During his hospitalization, ID was consulted and a CMV avidity 
study was ordered to evaluate for CMV infection after CMV viral 
load was negative. On balance, he was thught to have CMV 
hepatitis but may have cleared the infection. His LFTs remained 
elevated to the 200-300s. Rheumatology was consulted and 
recommended to check uric acid as an outpatient and consider 
Allopurinol starting at 100mg po daily once his acute flare 
subsides. They recommended follow up in ___ clinic as 
an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Indomethacin 25 mg PO TID:PRN Pain - Moderate 
2. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Indomethacin 25 mg PO TID:PRN Pain - Moderate  
3.Outpatient Physical Therapy
Diagnosis: ___ syndrome ICD-10 G61.0
Evaluate and treat.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GBS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to ___ for symptoms of progressive weakness 
and paresthesias (tingling). ___ underwent an EMG which was 
consistent with Guillain-Barré syndrome (GBS). ___ completed a 5 
day course of IVIg with improvement in your symptoms.
 
___ were seen by Rheumatology who recommended ___ follow up with 
them as an outpt for possible initiation of allopurinol as an 
outpatient. The Infectious Disease specialists saw ___ and were 
thinking about a viral infection (CMV) as a trigger for the GBS; 
in addition, a test for Powassan virus was sent and is still 
pending.

___ still have some difficulties with strength and sensation in 
your feet. This means that your balance will be a bit off as ___ 
recover. Please be cautious when returning to your normal 
activities. We have given ___ a prescription for outpatient 
physical therapy to give ___ supervised practice as ___ recover.

___ should not get the flu shot next flu season.

It was a pleasure taking care of ___.

- the ___ neurology team
 
Followup Instructions:
___